US08278441B2
Racemic N-((4aSR,7aSR)-7a-(5-Bromo-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide
To a 15° C. mixture of racemic N-((3SR,4RS)-3-(5-bromo-2-fluorophenyl)-4-(hydroxymethyl)tetrahydrofuran-3-ylcarbamothioyl)benzamide (110 g, 243 mmol) and triphenylphosphine (76.4 g, 291 mmol) in tetrahydrofuran (970 mL) is added di-tert-butyl azodicarboxylate (67.1 g, 291 mmol) in 3 portions over 10 minutes keeping internal temperature below 25° C. After the addition, the reaction mixture is stirred at 25° C. for 1 hour. The solvent is removed under reduced pressure and the residue is purified by silica gel chromatography using a linear gradient of 14% to 33% ethyl acetate in hexanes to give the title compound (80 g, 76%). ES/MS m/e (79Br/81Br) 435, 437 (M+1).

reactant | racemic N-((3SR,4RS)-3-(5-bromo-2-fluorophenyl)-4-(hydroxymethyl)tetrahydrofuran-3-ylcarbamothioyl)benzamide | 243 mmol, 110 g | BrC=1C=CC(=C(C1)C1(COCC1CO)NC(=S)NC(C1=CC=CC=C1)=O)F | C19H18BrFN2O3S
reactant | triphenylphosphine | 291 mmol, 76.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 291 mmol, 67.1 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 970 mL | O1CCCC1 | C4H8O
product | Racemic N-((4aSR,7aSR)-7a-(5-Bromo-2-fluorophenyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-2-yl)benzamide | 80 g, 76% | BrC=1C=CC(=C(C1)C12N=C(SCC1COC2)NC(C2=CC=CC=C2)=O)F | C19H16BrFN2O2S
